US07674804B2
Step 1: 4-(2,6-Dichloro-5-ethoxycarbonylmethyl-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A solution of (2,4,6-trichloro-pyrimidin-5-yl)-acetic acid ethyl ester (1.00 g, 3.71 mmol, 1.0 equiv; commercially available from Tyger Scientific Inc, USA), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.26 g, 6.31 mmol, 1.7 equiv) and triethylamine (0.77 mL, 0.56 g, 5.57 mmol, 1.5 equiv) in acetonitrile (9 mL) and DMAc (2 mL) was heated by microwave irradiation to 120° C. for 30 min. The reaction mixture was concentrated under reduced pressure and the crude material purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 0.87 g (54%) of the title compound. 1H NMR (400 MHz, DMSO): δ1.19 (t, J=8.0 Hz, 3H), 1.35-1.44 (m, 2H), 1.40 (s, 9H), 1.76-1.79 (m, 2H), 2.84 (br s, 2H), 3.73 (s, 2H), 3.93-3.96 (m, 2H), 4.11 (q, J=8.0 Hz, 2H), 4.08-4.13 (m, 1H), 7.52 (d, J=8.0 Hz, 1H). MS (ISP): 433.3 [M+H]+.

reactant | (2,4,6-trichloro-pyrimidin-5-yl)-acetic acid ethyl ester | C(C)OC(CC=1C(=NC(=NC1Cl)Cl)Cl)=O | C8H7Cl3N2O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 6.31 mmol, 1.26 g, 1.7 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 5.57 mmol, 0.77 mL, 0.56 g, 1.5 equiv | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
solvent | DMAc | 2 mL | CC(=O)N(C)C | C4H9NO
product | 4-(2,6-Dichloro-5-ethoxycarbonylmethyl-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1CC(=O)OCC)Cl)Cl | C18H26Cl2N4O4
